US07297707B2
2,4-Dichloro-N-(3,4-dimethoxy-phenyl)-N-(6-methanesulfonylamino-benzothiazol-2-yl)-benzamide
A mixture of 33.2 mg (0.07 mmol) N-(6-Amino-benzothiazol-2-yl)-2,4-dichloro-N-(3,4-dimethoxy-phenyl)-benzamide in 0.7 ml DCM, 18.2 mg (0.18 mmol) NEt3 and 10.3 mg (0.091 mmol) methanesulfonyl chloride in 0.2 ml DCM was reacted for 16 h at room temperature. After evaporation of all volatiles the residue was taken up in DMF/acetonitrile and subjected to preparative HPLC separation on reversed phase eluting with an acetonitrile/water gradient to yield 9.6 mg (25%) of the title compound. MS (m/e): 552.1 (MH+, 100%).

reactant | N-(6-Amino-benzothiazol-2-yl)-2,4-dichloro-N-(3,4-dimethoxy-phenyl)-benzamide | 0.07 mmol, 33.2 mg | NC1=CC2=C(N=C(S2)N(C(C2=C(C=C(C=C2)Cl)Cl)=O)C2=CC(=C(C=C2)OC)OC)C=C1 | C22H17Cl2N3O3S
reactant | NEt3 | 0.18 mmol, 18.2 mg | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.091 mmol, 10.3 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 0.7 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.2 ml | C(Cl)Cl | CH2Cl2
product | 2,4-Dichloro-N-(3,4-dimethoxy-phenyl)-N-(6-methanesulfonylamino-benzothiazol-2-yl)-benzamide | 9.6 mg, 25% | ClC1=C(C(=O)N(C=2SC3=C(N2)C=CC(=C3)NS(=O)(=O)C)C3=CC(=C(C=C3)OC)OC)C=CC(=C1)Cl | C23H19Cl2N3O5S2
